US06841183B2
Synthesis of 2-hydroxy-7-methoxychroman
A 500-milliliter egg plant type flask was charged with 5.14 g of 2-ethoxy-7-methoxychroman, 74 ml of acetonitrile and 25 ml of water, and 4.8 ml of a 35% hydrochloric acid aqueous solution was slowly added thereto dropwise at room temperature. The solution was stirred at 60° C. for 20 minutes, and then cooled to 20° C. The reaction solution was neutralized with 39 ml of a 5% sodium hydroxide aqueous solution, and the acetonitrile was removed by distillation in vacuo therefrom. The residue was extracted three times with 50 ml of ethyl acetate, and the organic layer was washed with water. Then, the ethyl acetate was removed by distillation in vacuo therefrom. The resulting residue was purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate 5:1) to obtain 3.60 g of a colorless liquid (yield 81%). Further, 0.77 g of 2-ethoxy-7-methoxychroman was recovered.

reactant | 2-ethoxy-7-methoxychroman | 5.14 g | C(C)OC1OC2=CC(=CC=C2CC1)OC | C12H16O3
reactant | acetonitrile | 74 ml | C(C)#N | C2H3N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | 2-hydroxy-7-methoxychroman | 3.60 g, yield 81% | OC1OC2=CC(=CC=C2CC1)OC | C10H12O3
